US04322369
Preparation of Tris(3,6-dioxaheptyl)amine
To the aforesaid reaction mixture (i), 51.6 g tris(2-chloroethyl)amine chlorhydrate (0.215 moles) were added. The mixture was then heated with reflux of 2-methoxyethanol (125° C.) for 12 hours, followed by the distillation of the solvent under reduced pressure. The excess sodium 2-methoxyethanolate was then neutralized by addition of 11.6 cm3 aqueous HCl (10 N). The sodium chloride was filtered off and the solution distilled.

reactant | tris(2-chloroethyl)amine | 51.6 g | ClCCN(CCCl)CCCl | C6H12Cl3N
reactant | 2-methoxyethanol | COCCO | C3H8O2
product | Tris(3,6-dioxaheptyl)amine | C(COCCOC)N(CCOCCOC)CCOCCOC | C15H33NO6
